US07112582B2
A suspension of 20.4 g (0.13 mol) of 3-chloro-5,5-dimethyl-2-piperidone and 45.2 g (0.14 mol) of Ba(OH)3-8H2O in 252 mL of water was heated in a Parr apparatus at 150° C. for 6 h. Then, 18.6 g (0.14 mol) of ammonium sulphate were added. The precipitate was filtered off, and the solution was concentrated under reduced pressure to dryness. Crude 4,4-dimethylpyrrolidine-2-carboxylic acid was obtained as a white solid (37.5 g). (J. Med. Chem., 20, 1176 (1977), EP 0 447 704 A1, page 17)

reactant | 3-chloro-5,5-dimethyl-2-piperidone | 0.13 mol, 20.4 g | ClC1C(NCC(C1)(C)C)=O | C7H12ClNO
reactant | ammonium sulphate | 0.14 mol, 18.6 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | 252 mL | O | H2O
product | 4,4-dimethylpyrrolidine-2-carboxylic acid | CC1(CC(NC1)C(=O)O)C | C7H13NO2
